datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:17])([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])[C:7]1([C:8]([H:17])([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])[H:10],123.428
[C:0]([C:1]([C:2]([O:3][O:4][H:15])([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][O:8])[H:16])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:15])([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][O:8][H:12])[H:16])[H:14])[H:13])([H:9])([H:10])[H:11],77.404
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:9],98.9516
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[H:9][H:15],18.706664
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[C:8]([O:9])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][O:9][C:8]([H:10])([H:11])[H:12],13.8072
[c:0]1([H:10])[c:1]([H:11])[c:2]([H:12])[c:3]2[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]2[c:9]1[H:17]>>[H:10].[c:0]1[c:1]([H:11])[c:2]([H:12])[c:3]2[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]2[c:9]1[H:17],619.549984
[C:0]([C:1](=[O:2])[O:3][C:4]([C:5]([H:10])([H:11])[H:12])=[O:6])([H:7])([H:8])[H:9]>>[C:0](=[C:1]=[O:2])([H:8])[H:9].[O:3]=[C:4]([C:5]([H:10])([H:11])[H:12])[O:6][H:7],151.0424
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20])[H:6],-12.4683
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[S:9]([C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])([H:18])[H:19])[H:17]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:18])[H:6])([H:4])[H:5].[S:9]([C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])[H:19])[H:17],35.9824
[C:0]([C:1]1([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]2([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])[C:5]12[H:12],18.4096
[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2[C:9]1([H:18])[H:19].[H:20]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]2([H:20])[C:4]([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])=[C:8]2[C:9]1([H:18])[H:19],19.6648
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([C:6](=[S:7])[H:11])([H:8])([H:9])[H:10]>>[C:0](#[C:1][C:2](=[S:3])[H:11])[H:4].[C:5]([C:6]=[S:7])([H:8])([H:9])[H:10],68.1992
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])([H:15])[H:16])([H:13])[H:14])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:2]([H:10])([H:11])[H:12])([H:9])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]1([C:6]([H:18])[H:19])[H:17],15.4808
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3](=[O:4])[H:13])[O:5][O:6])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3](=[O:4])[H:13])[O:5][O:6][H:7])([H:8])[H:9],125.01792
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]([C:8]([C:9]([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])([H:21])[H:22])([H:19])[H:20])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]([H:19])([H:20])[C:8]([H:21])([H:22])[C:9]1([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])[H:12],67.99
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18],39.3296
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:9])([H:10])[H:11].[S:20]=[C:21]([S:22][H:24])[H:23]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:24])([H:9])([H:10])[H:11].[S:20]=[C:21]([S:22])[H:23],-3.7656
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](=[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:20]([C:19](=[C:18]([H:22])[H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25])[H:11])[H:10],47.4047
